US04599344
3-[2-(4-((methylsulfonyl)amino)phenyl)ethylidene]-1-heptyl-1-azoniabicyclo[2.2.2]octane bromide
In a manner similar to Example II, Method A, react N-[4-(2-(1-azabicyclo[2.2.2]oct-3-ylidene)ethyl)phenyl]methanesulfonamide with heptyl bromide to afford the title compound.

reactant | N-[4-(2-(1-azabicyclo[2.2.2]oct-3-ylidene)ethyl)phenyl]methanesulfonamide | N12CC(C(CC1)CC2)=CCC2=CC=C(C=C2)NS(=O)(=O)C | C16H22N2O2S
reactant | heptyl bromide | C(CCCCCC)Br | C7H15Br
product | 3-[2-(4-((methylsulfonyl)amino)phenyl)ethylidene]-1-heptyl-1-azoniabicyclo[2.2.2]octane bromide | [Br-].CS(=O)(=O)NC1=CC=C(C=C1)CC=C1C[N+]2(CCC1CC2)CCCCCCC | InChI=1S/C23H37N2O2S.BrH/c1-3-4-5-6-7-16-25-17-14-21(15-18-25)22(19-25)11-8-20-9-12-23(13-10-20)24-28(2,26)27;/h9-13,21,24H,3-8,14-19H2,1-2H3;1H/q+1;/p-1
